US09029399B2
Preparation of Intermediate 4-cyclopropyl-3-iodopyridine 1-oxide (I-50a)
m-Chloroperbenzoic acid (408 mg, 2.36 mmol) was added to the solution of 4-cyclopropyl-3-iodopyridine (I-30a: 200 mg. 0.816 mmol) in DCM (10 mL) and the resulting mixture was stirred at room temperature for 3 hours. The reaction was monitored by TLC. The reaction mixture was quenched with ice and diluted with DCM. The organic layer was washed with dilute NaOH solution, water and brine solution, dried over sodium sulphate and concentrated to afford 200 mg of the product (94.7% yield).

reactant | m-Chloroperbenzoic acid | 2.36 mmol, 408 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-cyclopropyl-3-iodopyridine | 0.816 mmol, 200 mg | C1(CC1)C1=C(C=NC=C1)I | C8H8IN
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-cyclopropyl-3-iodopyridine 1-oxide | 200 mg, 94.7% yield | C1(CC1)C1=C(C=[N+](C=C1)[O-])I | C8H8INO
